US07846925B2
5-[1,3]Dioxolan-2-yl-benzofuran (50 mg, 0.26 mmol) was dissolved in THF (2 mL) and the solution was cooled down to −78° C. Butyl lithium (180 uL, 1.1 eq.) was added dropwise. This mixture was stirred 30 min at 25° C. Then the reaction mixture was cooled down to −78° C. and iodomethane (18.1 uL, 1.1 eq.) dissolved in 1 mL THF was added dropwise to the reaction mixture. The temperature was increased slowly to room temperature overnight. Despite some starting material was detected, water and ethyl acetate were added to the mixture and the aqueous layer was extracted 3 times. Combined organic phases was dried over MgSO4, filtrated and evaporated to give 2-methyl-5-[1,3]dioxolan-2-yl-benzofuran (41.2 mg, 70%) sufficiently pure to be used in the next step.

reactant | 5-[1,3]Dioxolan-2-yl-benzofuran | 0.26 mmol, 50 mg | O1C(OCC1)C=1C=CC2=C(C=CO2)C1 | C11H10O3
reactant | Butyl lithium | 180 uL, 1.1 eq. | C(CCC)[Li]
reactant | iodomethane | 18.1 uL, 1.1 eq. | IC | CH3I
reactant | water | O | H2O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-methyl-5-[1,3]dioxolan-2-yl-benzofuran | 41.2 mg, 70% | CC=1OC2=C(C1)C=C(C=C2)C2OCCO2 | C12H12O3
